US07723330B2
Step F: Preparation of 2-(cyclohexylmethyl)-5-(3-fluoro-4-(3-(4-(morpholine-4-carbonyl)phenyl)-1H-pyrazolo[3,4-b]pyridin-4-yloxy)phenyl)-3-methylpyrimidin-4(3H)-one:
A solution of 2-(cyclohexylmethyl)-5-(3-fluoro-4-(1-(4-methoxybenzyl)-3-(4-(morpholine-4-carbonyl)phenyl)-1H-pyrazolo[3,4-b]pyridin-4-yloxy)phenyl)-3-methylpyrimidin-4(3H)-one (0.027 g, 0.0363 mmol) in TFA (1 mL) was stirred at 60° C. for 3 minutes and then at ambient temperature overnight. The reaction mixture was concentrated in vacuo and the residue was partitioned between EtOAc and saturated NaHCO3. The layers were separated and the aqueous layer was re-extracted with EtOAc (1×). The combined EtOAc layers were dried over Na2SO4, filtered and concentrated. The crude product was purified by flash column chromatography, eluting with 10:1 CH2Cl2/MeOH. The product was obtained (17.3 mg; 76%) as a yellow solid. 1H NMR (400 MHz, DMSO-d6) δ 8.41 (d, 1H), 8.27 (s, 1H), 8.08 (d, 2H), 7.89 (m, 1H), 7.71 (m, 1H), 7.59-7.49 (m, 4H), 6.43 (d, 1H), 3.60 (m, 8H), 3.53 (s, 3H), 2.73 (d, 2H), 1.96 (m, 1H), 1.82-1.59 (m, 5H), 1.34-0.99 (m, 5H). LRMS (APCI pos) m/e 623 (M+1).

reactant | 2-(cyclohexylmethyl)-5-(3-fluoro-4-(1-(4-methoxybenzyl)-3-(4-(morpholine-4-carbonyl)phenyl)-1H-pyrazolo[3,4-b]pyridin-4-yloxy)phenyl)-3-methylpyrimidin-4(3H)-one | 0.0363 mmol, 0.027 g | C1(CCCCC1)CC1=NC=C(C(N1C)=O)C1=CC(=C(C=C1)OC1=C2C(=NC=C1)N(N=C2C2=CC=C(C=C2)C(=O)N2CCOCC2)CC2=CC=C(C=C2)OC)F | C43H43FN6O5
solvent | TFA | 1 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | 2-(cyclohexylmethyl)-5-(3-fluoro-4-(3-(4-(morpholine-4-carbonyl)phenyl)-1H-pyrazolo[3,4-b]pyridin-4-yloxy)phenyl)-3-methylpyrimidin-4(3H)-one | C1(CCCCC1)CC1=NC=C(C(N1C)=O)C1=CC(=C(C=C1)OC1=C2C(=NC=C1)NN=C2C2=CC=C(C=C2)C(=O)N2CCOCC2)F | C35H35FN6O4
